US07442708B2
Methyl 4-({1-[(3-methoxybenzyl)oxy]-2-methylindolizin-3-yl}carbonyl)benzoate
This compound is obtained according to the same procedure as that of Example 86, by O-alkylation of methyl 4-[(1-hydroxy-2-methylindolizin-3-yl)carbonyl]benzoate with 3-methoxybenzyl bromide. A yellow powder is obtained which melts at 106° C.

reactant | methyl 4-[(1-hydroxy-2-methylindolizin-3-yl)carbonyl]benzoate | OC=1C(=C(N2C=CC=CC12)C(=O)C1=CC=C(C(=O)OC)C=C1)C | C18H15NO4
reactant | 3-methoxybenzyl bromide | COC=1C=C(CBr)C=CC1 | C8H9BrO
product | Methyl 4-({1-[(3-methoxybenzyl)oxy]-2-methylindolizin-3-yl}carbonyl)benzoate | COC=1C=C(COC=2C(=C(N3C=CC=CC23)C(=O)C2=CC=C(C(=O)OC)C=C2)C)C=CC1 | C26H23NO5
